US05658935
{3-[4-(Aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-D,L-homophenylalanine methyl ester
403 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetic acid hydrochloride are coupled with 270 mg of D,L-homophenylalanine methyl ester by the process described above. After working up and chromatographic purification, 343 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}-acetyl-D,L-homophenylalanine methyl ester are obtained.

reactant | {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetic acid hydrochloride | 403 mg | Cl.NN=CC1=CC=C(CC2C(N(C(C2)=O)CC(=O)O)=O)C=C1
reactant | D,L-homophenylalanine methyl ester | 270 mg | COC(C(N)CCC1=CC=CC=C1)=O | C11H15NO2
product | {3-[4-(Aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-D,L-homophenylalanine methyl ester | COC(C(NC(CN1C(C(CC1=O)CC1=CC=C(C=C1)C=NN)=O)=O)CCC1=CC=CC=C1)=O | C25H28N4O5
